US06136823
Synthesis of 2-Chloro-4-fluoro-5-methyl-3-nitrobenzoic Acid
2-Chloro-4-fluoro-5-methylbenzoic acid (2.0 g) was added to concentrated sulfuric acid (20 ml) to dissolve it, and potassium nitrate (1.07 g) was added portionwise to the solution under ice cooling. After the addition, the temperature of the reaction mixture was given back to room temperature to conduct stirring overnight. The reaction mixture was poured into ice water and extracted with diethyl ether. After an organic layer was collected and dried over anhydrous magnesium sulfate, the solvent was distilled off to obtain the title compound (2.25 g) as a reddish brown oil.

reactant | 2-Chloro-4-fluoro-5-methylbenzoic acid | 2.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C | C8H6ClFO2
reactant | potassium nitrate | 1.07 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-4-fluoro-5-methyl-3-nitrobenzoic Acid | 2.25 g | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])F)C | C8H5ClFNO4
